US08748452B2
To a mixed solution of 1-cyanoindolizine-7-carboxylic acid ethyl ester (0.42 g) in tetrahydrofuran (4.2 mL), ethanol (2.1 mL) and water (2.1 mL) was added lithium hydroxide (0.25 g) at room temperature, and the mixture was stirred at the same temperature overnight. The reaction mixture was acidified with 2 mol/L hydrochloric acid, and a precipitated solid was collected by filtration. This solid was washed with water and n-hexane to give 1-cyanoindolizine-7-carboxylic acid (0.29 g).

reactant | 1-cyanoindolizine-7-carboxylic acid ethyl ester | 0.42 g | C(C)OC(=O)C=1C=CN2C=CC(=C2C1)C#N | C12H10N2O2
reactant | lithium hydroxide | 0.25 g | [OH-].[Li+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 4.2 mL | O1CCCC1 | C4H8O
solvent | ethanol | 2.1 mL | C(C)O | C2H6O
solvent | water | 2.1 mL | O | H2O
product | 1-cyanoindolizine-7-carboxylic acid | 0.29 g | C(#N)C=1C=CN2C=CC(=CC12)C(=O)O | C10H6N2O2
